US04305937
To a suspension of 2-methyl-7-[2-(2-propynyloxyimino)-2-(2-formylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer) (2.1 g) in methanol (42 ml) was added concentrated hydrochloric acid (0.97 ml), and the mixture was stirred for 2 hours at ambient temperature. The methanol was distilled off from the reaction mixture, and the residue was dissolved in water (50 ml) and then filtered. The filtrate was adjusted to pH 3 with a saturated aqueous solution of sodium bicarbonate, and the precipitates were collected by filtration and then dried to give 2-methyl-7-[2-(2-propynyloxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer) (0.6 g).

reactant | 2-methyl-7-[2-(2-propynyloxyimino)-2-(2-formylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | 2.1 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)NC=O)=NOCC#C)=O)=O | C17H15N5O6S2
reactant | hydrochloric acid | 0.97 ml | Cl | ClH
solvent | methanol | 42 ml | CO | CH4O
product | 2-methyl-7-[2-(2-propynyloxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | 0.6 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)N)=NOCC#C)=O)=O | C16H15N5O5S2
